US05604004
Synthesis of ligand intermediate (4-isopropylbenzaldehyde-(4-nitrophenyl)hydrazone).
In 20 ml of methanol was dissolved 3.06 g of 4-nitrophenylhydrazine. With 2.96 g of 4-isopropylbenzaldehyde added, the solution was refluxed at 100° C. for one hour. With the progress of reaction, crystals gradually precipitated. The crystals were collected by suction filtration, washed with methanol, and dried at 80° C. for 2 hours, obtaining 5.21 g (yield 92%) of pale yellow crystals.

reactant | 4-nitrophenylhydrazine | 3.06 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | 4-isopropylbenzaldehyde | 2.96 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
solvent | methanol | 20 ml | CO | CH4O
product | 4-isopropylbenzaldehyde-(4-nitrophenyl)hydrazone | 5.21 g, yield 92% | [N+](=O)([O-])C1=CC=C(C=C1)NN=CC1=CC=C(C=C1)C(C)C | C16H17N3O2
